US05466687
4-[4-(2-Oxazolin-2-yl) benzylidene]-1-(4-pentynoyl)piperidine
4-[4-(2-oxazolin-2-yl)benzylidene]-1-(4-phenyl-3-butenoyl)piperidine from 4-[4-(2-oxazolin-2-yl)benzylidene]piperidine, 4-phenyl-3-butenoic acid and N,N'-carbonyldiimidazole. Melting point: 139° C.

reactant | 4-[4-(2-oxazolin-2-yl)benzylidene]-1-(4-phenyl-3-butenoyl)piperidine | O1C(=NCC1)C1=CC=C(C=C2CCN(CC2)C(CC=CC2=CC=CC=C2)=O)C=C1 | C25H26N2O2
reactant | 4-[4-(2-oxazolin-2-yl)benzylidene]piperidine | O1C(=NCC1)C1=CC=C(C=C2CCNCC2)C=C1 | C15H18N2O
reactant | 4-phenyl-3-butenoic acid | C1(=CC=CC=C1)C=CCC(=O)O | C10H10O2
product | 4-[4-(2-Oxazolin-2-yl) benzylidene]-1-(4-pentynoyl)piperidine | O1C(=NCC1)C1=CC=C(C=C2CCN(CC2)C(CCC#C)=O)C=C1 | C20H22N2O2
